US07884101B2
Preparation of 4-fluoro-3-methyl-N-[3-(2-methyl-2H-pyrazol-3-yl)-4-((S)-1-methyl-pyrrolidin-2-ylmethoxy)-phenyl]-benzamide (Compound 547)
A mixture of 3-(2-Methyl-2H-pyrazol-3-yl)-4-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamine (64 mg, 0.23 mmole), 4-fluoro-3-methyl-benzoyl chloride (60 mg, 0.35 mmole), and triethylamine (63.4 μL, 0.46 mmole) in 1 mL THF was stirred at room temperature for 10 minutes. The mixture was purified by HPLC to give the title compound as a white solid (TFA salt, 92 mg, 95% yield). Exact mass calculated for C24H27FN4O2 422.2. found 423.2 (MH+).

reactant | 3-(2-Methyl-2H-pyrazol-3-yl)-4-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamine | 0.23 mmole, 64 mg | CN1N=CC=C1C=1C=C(C=CC1OCC1N(CCC1)C)N | C16H22N4O
reactant | 4-fluoro-3-methyl-benzoyl chloride | 0.35 mmole, 60 mg | FC1=C(C=C(C(=O)Cl)C=C1)C | C8H6ClFO
reactant | triethylamine | 0.46 mmole, 63.4 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-fluoro-3-methyl-N-[3-(2-methyl-2H-pyrazol-3-yl)-4-((S)-1-methyl-pyrrolidin-2-ylmethoxy)-phenyl]-benzamide | 92 mg, 95% yield | FC1=C(C=C(C(=O)NC2=CC(=C(C=C2)OC[C@H]2N(CCC2)C)C=2N(N=CC2)C)C=C1)C | C24H27FN4O2
